US07678803B2
To the solution of 1-amino-6-fluoro-isoquinoline-4-carbonitrile (3 g, 1 eq) in toluene (100 mL) is added 3M MeMgBr in ether (53 mL, 10 eq) at 0° C., then the mixture is stirred at RT for 2 h, then refluxed overnight. The reaction is cooled down and acidified by 2 N HCl aq. to pH˜3, then neutralized by Sat'd NaHCO3 aq (300 mL), extracted by dichloromethane (3×150 mL). The organic layer is dried over Na2SO4, filtered, concentrated to give product 1-(1-amino-6-fluoro-isoquinolin-4-yl)-ethanone (0.8 g, 24%). LC/MS m/z=205 [M+H]+.

reactant | 1-amino-6-fluoro-isoquinoline-4-carbonitrile | 3 g, 1 eq | NC1=NC=C(C2=CC(=CC=C12)F)C#N | C10H6FN3
reactant | MeMgBr | 3M | C[Mg+].[Br-]
reactant | ether | 53 mL, 10 eq | CCOCC | C4H10O
reactant | HCl | 2 N | Cl | ClH
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(1-amino-6-fluoro-isoquinolin-4-yl)-ethanone | 0.8 g, 24% | NC1=NC=C(C2=CC(=CC=C12)F)C(C)=O | C11H9FN2O
